US07416791B1
4-(4-Bromophenyl)-8-nitroquinoline (30 g, 91.1 mmol) was added to absolute ethanol (120 mL) and purged with nitrogen. To this was added tin (II) chloride (190 mmol) and the reaction mixture refluxed for 4 hours. The pH was adjusted to 12 with aqueous NaOH and the organics were extracted using methylene chloride. The organics were then purified on basic alumina (methylene chloride/methanol 99:1) to yield 21.2 g of 4-(4-bromophenyl)quinolin-8-yl amine.

reactant | 4-(4-Bromophenyl)-8-nitroquinoline | 91.1 mmol, 30 g | BrC1=CC=C(C=C1)C1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C15H9BrN2O2
reactant | tin (II) chloride | 190 mmol | [Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 120 mL | C(C)O | C2H6O
product | 4-(4-bromophenyl)quinolin-8-yl amine | 21.2 g | BrC1=CC=C(C=C1)C1=CC=NC2=C(C=CC=C12)N | C15H11BrN2
